US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methoxy-4-(3-oxopiperazin 1-ylmethyl)benzamide
Prepared analogously to Example 1g from 3-methoxy-4-(3-oxopiperazin-1-ylmethyl)benzoic acid, TBTU, diisopropylethylamine and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 35%; Rf value: 0.39 (silica gel; dichloromethane/ethanol=4:1); C22H24ClN5O3 (441.92); mass spectrum: (M+H)+=442/444 (chlorine isotope) and (M−H)-=440/442 (chlorine isotope).

reactant | 3-methoxy-4-(3-oxopiperazin-1-ylmethyl)benzoic acid | COC=1C=C(C(=O)O)C=CC1CN1CC(NCC1)=O | C13H16N2O4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methoxy-4-(3-oxopiperazin 1-ylmethyl)benzamide | Yield: 35% | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)CN2CC(NCC2)=O)OC)=O)C=C1 | C22H24ClN5O3
